US04281188
9.3 g (0.03 M) of rac-7-amino-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are dissolved in 80 ml of glacial acetic acid. The solution is cooled to 10° C., treated dropwise with 5 g (1.62 ml) of bromine, stirred at 10° C. for a further 10 minutes after the addition of bromine and then concentrated. The residue is treated with a mixture of ice and 10% sodium bicarbonate solution, extracted with methylene chloride and the extract is dried over sodium sulphate, filtered and concentrated. The residual oil is purified on a 200 g silica gel column with methylene chloride/ethyl acetate (10:1) and crystallised from ether. There is obtained rac-7-amino-3-ethyl-6-bromo-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one which melts at 248° C.

reactant | rac-7-amino-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.03 M, 9.3 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)F)C1 | C18H18FN3O
reactant | bromine | 1.62 ml, 5 g | BrBr | Br2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | rac-7-amino-3-ethyl-6-bromo-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)F)C1Br | C18H17BrFN3O
